US08114902B2
Synthesis of 2-amino-2-{2-[4′-(4-ethylphenylthio)-2′-fluoro-biphenyl-4-yl]ethyl}propane-1,3-diol
A solution of N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide (225 mg) of Reference Example 10, 4-ethylbenzenethiol (69 mg), diisopropylethylamine (129 mg), tris(dibenzylideneacetone)dipalladium(0) chloroform adduct (12.9 mg) and 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene (Xantphos) (14.9 mg) in 1,4-dioxane (2 mL) was heated under reflux for 8 hr under a nitrogen atmosphere. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure, and the obtained residue was dissolved in ethanol (4 mL). Concentrated hydrochloric acid (2 mL) was added, and the mixture was stirred at 80° C. for 4 hr. The reaction mixture was concentrated, aqueous potassium carbonate solution was added to the residue, and the precipitated crystals were collected by filtration. The crude crystals were purified by preparative HPLC to give the title compound (84 mg) as white crystals.

reactant | N-{5-[2-(4′-bromo-2′-fluorobiphenyl-4-yl)ethyl]-2,2-dimethyl-1,3-dioxan-5-yl}acetamide | 225 mg | BrC1=CC(=C(C=C1)C1=CC=C(C=C1)CCC1(COC(OC1)(C)C)NC(C)=O)F | C22H25BrFNO3
reactant | 4-ethylbenzenethiol | 69 mg | C(C)C1=CC=C(C=C1)S | C8H10S
reactant | diisopropylethylamine | 129 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 4,5-bis(diphenylphosphino)-9,9-dimethylxanthene | 14.9 mg | C1(=CC=CC=C1)P(C1=CC=CC=2C(C3=CC=CC(=C3OC12)P(C1=CC=CC=C1)C1=CC=CC=C1)(C)C)C1=CC=CC=C1 | C39H32OP2
solvent | 1,4-dioxane | 2 mL | O1CCOCC1 | C4H8O2
catalyst | tris(dibenzylideneacetone)dipalladium(0) chloroform adduct | 12.9 mg | C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C1=CC=C(C=C1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C(Cl)(Cl)Cl.[Pd].[Pd]
solvent | Water | O | H2O
product | 2-amino-2-{2-[4′-(4-ethylphenylthio)-2′-fluoro-biphenyl-4-yl]ethyl}propane-1,3-diol | 84 mg | NC(CO)(CO)CCC1=CC=C(C=C1)C1=C(C=C(C=C1)SC1=CC=C(C=C1)CC)F | C25H28FNO2S
